US06642389B2
h] [rac]-2-Methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid ethyl ester
0.228 g of the above prepared 3-hydroxy-2-methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid ethyl ester (0.44 mmol) was dissolved in 2.3 ml of trifluoroacetic acid, treated at 0° with 0.697 ml of triethylsilane (10 eq.) and then kept for 4 h at 0°. The reaction mixture was then poured onto crashed ice/AcOEt/NaHCO3, the organic layer washed twice with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=7/3) yielded 0.143 g of the title compound as colorless oil.

reactant | 3-hydroxy-2-methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid ethyl ester | 0.44 mmol | C(C)OC(C(C(C1=CC=C(C2=CC=CC=C12)OCCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)O)OC)=O | C30H33NO7
reactant | triethylsilane | 0.697 ml, 10 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 2.3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [rac]-2-Methoxy-3-(4-{3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalen-1-yl)-propionic acid ethyl ester | 0.143 g | C(C)OC(C(CC1=CC=C(C2=CC=CC=C12)OCCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)OC)=O | C30H33NO6
